US06169107A
The reaction was carried out in a manner similar to Reference Example 6 except for using 3.99 g (22.5 mmol) of 1-hydroxy-2-indolecarboxylic acid, 5.36 g (45.0 mmol) of thionyl chloride and 100 ml of methanol. Thus 2.56 g (59.5%) of methyl 1-hydroxy-2-indolecarboxylate was obtained.

reactant | 1-hydroxy-2-indolecarboxylic acid | 22.5 mmol, 3.99 g | ON1C(=CC2=CC=CC=C12)C(=O)O | C9H7NO3
reactant | thionyl chloride | 45.0 mmol, 5.36 g | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 100 ml | CO | CH4O
product | methyl 1-hydroxy-2-indolecarboxylate | 2.56 g, 59.5% | ON1C(=CC2=CC=CC=C12)C(=O)OC | C10H9NO3
